US04597902
4-(Phenylthio)-1-butanol
A mixture of thiophenol (121.2 g, 1.10 mole), 4-chloro-1-butanol (100.0 g, 0.921 mole), and potassium carbonate (138.2 g, 1.0 mole) was heated overnight at gentle reflux in dimethoxyethane. The reaction mixture was filtered and solvent removed by rotary evaporator. The residue obtained was dissolved in chloroform and extracted with 10% sodium hydroxide. The chloroform layer was dried, filtered, and solvent removed to give an oil which crystallized to a white solid. The solid was vacuum distilled at 134°-140° C./0.55 mm. A six-gram sample of the distilled oil was subjected to flash chromatography on silica gel using ethyl acetate-hexanes for elution. This gave a clear oil which was dried at 80° C. overnight in vacuo. The process produced 5.2 g (57.8%) of clear oil.

reactant | thiophenol | 1.10 mole, 121.2 g | C1(=CC=CC=C1)S | C6H6S
reactant | 4-chloro-1-butanol | 0.921 mole, 100.0 g | ClCCCCO | C4H9ClO
reactant | potassium carbonate | 1.0 mole, 138.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(Phenylthio)-1-butanol | 5.2 g, 57.8% | C1(=CC=CC=C1)SCCCCO | C10H14OS
